US03957783
To a solution of 1.0 g of 2-acetylamino-3-(o-fluorobenzoyl)thiophene in 10 ml of dimethylformamide is added 0.220 g of 63 % sodium hydride. The mixture is stirred at room temperature for 30 minutes. Then 1.0 g of methyl iodide in 1 ml of dimethylformamide is added thereto. The mixture is stirred at room temperature overnight, then poured into water, and extracted with benzene. The benzene extracts are washed with water, dried over sodium sulfate, and the solvent is removed under reduced pressure. The residual oil is chromatographed on silica gel, using chloroform as an eluent to give crystals, which are recrystallized from ether to give N-methyl-1-acetylamino-3-(o-fluorobenzoyl)thiophene as crystals having a melting point of 94° - 95°C.

reactant | 2-acetylamino-3-(o-fluorobenzoyl)thiophene | 1.0 g | C(C)(=O)NC=1SC=CC1C(C1=C(C=CC=C1)F)=O | C13H10FNO2S
reactant | sodium hydride | 0.220 g | [H-].[Na+]
reactant | methyl iodide | 1.0 g | CI | CH3I
reactant | water | O | H2O
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-methyl-1-acetylamino-3-(o-fluorobenzoyl)thiophene | CN(S1C=C(C=C1)C(C1=C(C=CC=C1)F)=O)C(C)=O | C14H14FNO2S
